US08871792B2
(R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid Ethoxycarbonyloxymethyl Ester
To a solution of (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid (200 mg, 335 μmol) in dry DMF (10 mL) was added chloromethyl ethyl carbonate (69 mg, 503 μmol), NaI (101 mg, 670 μmol) and 2,6-dimethylpyridine (143 mg, 1.3 mmol) in portions at room temperature. The resulting mixture was stirred at room temperature for 8 hours. Water (15 mL) was added and the mixture was extracted with EtOAc (3×20 mL). The combined organic layers were dried over anhydrous Na2SO4 and concentrated in vacuo. The residue was purified by column chromatography (PE:EtOAc=3:1˜1:100) to yield the title compound as a white solid (9.5 mg). LC-MS: 627.9 [M+H]+. 1H NMR: (CDCl3, 400 MHz) δ 1.25 (t, J=7.1 Hz, 3H), 3.44 (br, 2H), 4.17-4.35 (m, 4H), 4.50 (s, 1H), 5.75-5.78 (m, 2H), 7.10 (t, J=9.3 Hz, 1H), 7.28-7.40 (m, 1H), 7.42-7.52 (m, 7H), 7.87 (s, 2H), 8.37 (s, 1H).

reactant | (R)-3-[N-(5′-chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic acid | 335 μmol, 200 mg | ClC=1C=CC(=C(C1)C1=CC=C(C=C1)CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)C[C@H](C(=O)O)O)F | C25H21ClFN5O5
reactant | chloromethyl ethyl carbonate | 503 μmol, 69 mg | C(OCCl)(OCC)=O | C4H7ClO3
reactant | NaI | 670 μmol, 101 mg | [Na+].[I-]
reactant | 2,6-dimethylpyridine | 1.3 mmol, 143 mg | CC1=NC(=CC=C1)C | C7H9N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | Water | 15 mL | O | H2O
product | (R)-3-[N-(5′-Chloro-2′-fluorobiphenyl-4-ylmethyl)-N′-(5-oxo-1-phenyl-4,5-dihydro-1H-[1,2,4]triazole-3-carbonyl)hydrazino]-2-hydroxypropionic Acid Ethoxycarbonyloxymethyl Ester | 9.5 mg | C(C)OC(=O)OCOC([C@@H](CN(NC(=O)C1=NN(C(N1)=O)C1=CC=CC=C1)CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)F)O)=O | C29H27ClFN5O8
